US03988156
4-(4-Ethoxycarbonyl-2-nitrobenzylidene)-1-ethyl-1,4-dihydroquinoline ##SPC7##
1-Ethyllepidinium iodide (5.8 g., 19.4 mmole) and ethyl 4-chloro-3-nitrobenzoate (4.6 g., 20 mmole) are stirred together in acetonitrile (50 ml.). Diisopropylethylamine (5.2 g., 40 mmole) is added and the mixture refluxed on a steam bath for 6 hours. The mixture is dissolved in 500 ml. ether and extracted five times with 200 ml. portions of water. The ether extract is dried over anhydrous magnesium sulfate. The dried ether solution is evaporated to dryness and then taken up on 25 ml. ether and chilled overnight. The precipitated dye is filtered off, washed with ether and petroleum ether, and dried. The yield is 2.8 g. (40%) with a m.p. of about 100° C.

reactant | 1-Ethyllepidinium iodide | 19.4 mmole, 5.8 g | [I-].C(C)[N+]1=CC=C(C)C2=CC=CC=C12
reactant | ethyl 4-chloro-3-nitrobenzoate | 20 mmole, 4.6 g | ClC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | Diisopropylethylamine | 40 mmole, 5.2 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-Ethoxycarbonyl-2-nitrobenzylidene)-1-ethyl-1,4-dihydroquinoline | C(C)OC(=O)C1=CC(=C(C=C2C=CN(C3=CC=CC=C23)CC)C=C1)[N+](=O)[O-] | C21H20N2O4
